US07618975B2
2-Chloro-4-(5-methoxyindol-1-yl)quinazoline
The title compound was prepared from 2,4-dichloroquinazoline (50 mg, 0.251 mmol) and 5-methoxyindole (40 mg, 0.302 mmol) similar to example 1b and was isolated as white powder (14 mg, 28%). 1H NMR (CDCl3): 8.91 (s, 1H), 8.70 (ddd, J=8.4, 2.8 and 1.5 Hz, 1H), 8.01 (ddd, J=8.4, 2.8 and 1.5 Hz, 1H), 7.92 (dd, J=6.9 and 1.5 Hz, 1H), 7.87 (m, 1H), 7.74 (d, J=2.4 Hz, 1H), 7.61 (ddd, J=8.4, 6.9 and 1.2 Hz, 1H), 7.37 (d, J=9.0 Hz, 1H), 6.97 (dd, J=9.0 and 2.4 Hz, 1H), 3.88 (s, 3H).

reactant | 2,4-dichloroquinazoline | 0.251 mmol, 50 mg | ClC1=NC2=CC=CC=C2C(=N1)Cl | C8H4Cl2N2
reactant | 5-methoxyindole | 0.302 mmol, 40 mg | COC=1C=C2C=CNC2=CC1 | C9H9NO
product | 2-Chloro-4-(5-methoxyindol-1-yl)quinazoline | ClC1=NC2=CC=CC=C2C(=N1)N1C=CC2=CC(=CC=C12)OC | C17H12ClN3O
